US07741327B2
A mixture of (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester (0.59 g, 1.77 mmol) in tetrahydrofuran (13.3 mL) and water (4.4 mL) was treated with lithium hydroxide monohydrate (89 mg, 2.13 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was diluted with water (75 mL), acidified with a 3N aqueous hydrochloric acid solution and then extracted with 10% methanol/dichloromethane (3×50 mL). The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid (0.51 g, 90%) as an off-white solid: HR-ES-MS m/z calculated for C17H20NO4F [M+H]+ 322.1449, observed 322.1447; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.84 (d, J=6.4 Hz, 3H), 0.90 (d, J=6.4 Hz, 3H), 1.44 (br. s., 1H), 1.51-1.66 (m, 1H), 1.66-1.84 (m, 1H), 2.29 (s, 3H), 4.13 (d, J=18.1 Hz, 1H), 4.25 (d, J=18.1 Hz, 1H), 4.60 (dd, J=11.3, 4.1 Hz, 1H), 4.86 (s, 1H), 7.09-7.19 (m, 1H), 7.25-7.35 (m, 2H), 12.92 (br. s., 1H).

reactant | (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester | 1.77 mmol, 0.59 g | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC(=C1)C)F)=O)=O | C18H22FNO4
reactant | lithium hydroxide monohydrate | 2.13 mmol, 89 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 13.3 mL | O1CCCC1 | C4H8O
solvent | water | 4.4 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | (S)-2-[4-(2-fluoro-5-methyl-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid | 0.51 g, 90% | FC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=C(C=C1)C | C17H20FNO4
